US08466282B2
5-(4-methoxybutyl)-N-(2-methylpropyl)-1-phenyl-N-[(3S,5R)-5-(pyrrolidin-1-ylcarbonyl)piperidin-3-yl]-1H-1,2,3-triazole-4-carboxamide hydrochloride
tert-Butyl (3S,5R)-3-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(pyrrolidin-1-ylcarbonyl)piperidine-1-carboxylate (245 mg) was dissolved in ethyl acetate (0.5 ml), 4N hydrogen chloride-ethyl acetate solution (0.5 ml) was added, and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and the residue was dried under reduced pressure to give the object product (205 mg).

reactant | tert-Butyl (3S,5R)-3-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(pyrrolidin-1-ylcarbonyl)piperidine-1-carboxylate | 245 mg | COCCCCC1=C(N=NN1C1=CC=CC=C1)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCCC1)C(=O)OC(C)(C)C)CC(C)C | C33H50N6O5
reactant | hydrogen chloride-ethyl acetate | 4N, 0.5 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
product | 5-(4-methoxybutyl)-N-(2-methylpropyl)-1-phenyl-N-[(3S,5R)-5-(pyrrolidin-1-ylcarbonyl)piperidin-3-yl]-1H-1,2,3-triazole-4-carboxamide hydrochloride | 205 mg | Cl.COCCCCC1=C(N=NN1C1=CC=CC=C1)C(=O)N([C@@H]1CNC[C@@H](C1)C(=O)N1CCCC1)CC(C)C | InChI=1S/C28H42N6O3.ClH/c1-21(2)20-33(24-17-22(18-29-19-24)27(35)32-14-8-9-15-32)28(36)26-25(13-7-10-16-37-3)34(31-30-26)23-11-5-4-6-12-23;/h4-6,11-12,21-22,24,29H,7-10,13-20H2,1-3H3;1H/t22-,24+;/m1./s1
